US05608056
To a solution of (2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy)-2-methoxycarbonylpyrrolidine (20 g) in toluene (100 ml) was added dropwise diisobutyl aluminum hydride (1.02M solution in toluene) (112 ml) with stirring at a temperature kept below -60° C. and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added dropwise ethanol (20.1 ml) with stirring at a temperature kept below -60° C. After stirring for 30 minutes at the same temperature, 5N aqueous sodium hydroxide solution was carefully added. This solution was stirred without further cooling until the temperature reached 20° C. (ca. 1.5 hours). The reaction mixture was allowed to stand for 10 minutes. The organic layer was separated, washed with water (100 ml), dried over anhydrous magnesium sulfate and evaporated in vacuo to give a solution of (2R,4S)-1-benzyl-2-formyl-4-(t-butyldimethylsilyloxy)pyrrolidine (ca. 40 ml) in toluene.

reactant | (2S,4R)-1-benzyl-4-(t-butyldimethylsilyloxy)-2-methoxycarbonylpyrrolidine | 20 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC | C19H31NO3Si
reactant | diisobutyl aluminum hydride | 1.02M, 112 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethanol | 20.1 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,4S)-1-benzyl-2-formyl-4-(t-butyldimethylsilyloxy)pyrrolidine | ca. 40 ml | C(C1=CC=CC=C1)N1[C@H](C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C18H29NO2Si
